* Generated by generate_dielectric_netlists.py for case 3-16-60
* C:\Users\ryota\Documents\DoctoralResearch\src\JPE_circuit_model\examples\JPE_3stacks.asc
V Ndc 0 PWL(0 0 1 3 2 0)
R_fg N006 Ndc 50
L_ext N004 N006 10m
R_ext N002 N004 1.15
L_mid N001 N002 10m
L_rad N003 N005 6.3986u
R_rad Nd N003 8.5994
C_rad N005 Na 10.498n
R_gnd Na 0 7.2
V§T_bath N007 0 -26.295
R_th T N007 7162.3
C_th T N007 100n
R_mid Nd N001 8.29

* Stack configuration: 3-16-60
XX001 Nd Nc_s01 T 0 1stack params: M=41.2487 N=14 I_c=12m R=36.8254m L=65.3547n C=5.01131u
XX002 Nc_s01 Nc_s02 T 0 1stack params: M=44.4217 N=13 I_c=12m R=34.195m L=60.6866n C=5.39679u
XX003 Nc_s02 Nc T 0 1stack params: M=44.4217 N=13 I_c=12m R=34.195m L=60.6866n C=5.39679u
XX004 Nc Nb_s01 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX005 Nb_s01 Nb_s02 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX006 Nb_s02 Nb_s03 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX007 Nb_s03 Nb_s04 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX008 Nb_s04 Nb_s05 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX009 Nb_s05 Nb_s06 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX010 Nb_s06 Nb_s07 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX011 Nb_s07 Nb_s08 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX012 Nb_s08 Nb_s09 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX013 Nb_s09 Nb_s10 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX014 Nb_s10 Nb_s11 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX015 Nb_s11 Nb_s12 T 0 1stack params: M=78.7492 N=11 I_c=18m R=19.2891m L=34.2327n C=9.56724u
XX016 Nb_s12 Nb_s13 T 0 1stack params: M=86.6241 N=10 I_c=18m R=17.5355m L=31.1207n C=10.524u
XX017 Nb_s13 Nb_s14 T 0 1stack params: M=86.6241 N=10 I_c=18m R=17.5355m L=31.1207n C=10.524u
XX018 Nb_s14 Nb_s15 T 0 1stack params: M=86.6241 N=10 I_c=18m R=17.5355m L=31.1207n C=10.524u
XX019 Nb_s15 Nb T 0 1stack params: M=86.6241 N=10 I_c=18m R=17.5355m L=31.1207n C=10.524u
XX020 Nb Na_s01 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX021 Na_s01 Na_s02 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX022 Na_s02 Na_s03 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX023 Na_s03 Na_s04 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX024 Na_s04 Na_s05 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX025 Na_s05 Na_s06 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX026 Na_s06 Na_s07 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX027 Na_s07 Na_s08 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX028 Na_s08 Na_s09 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX029 Na_s09 Na_s10 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX030 Na_s10 Na_s11 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX031 Na_s11 Na_s12 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX032 Na_s12 Na_s13 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX033 Na_s13 Na_s14 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX034 Na_s14 Na_s15 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX035 Na_s15 Na_s16 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX036 Na_s16 Na_s17 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX037 Na_s17 Na_s18 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX038 Na_s18 Na_s19 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX039 Na_s19 Na_s20 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX040 Na_s20 Na_s21 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX041 Na_s21 Na_s22 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX042 Na_s22 Na_s23 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX043 Na_s23 Na_s24 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX044 Na_s24 Na_s25 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX045 Na_s25 Na_s26 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX046 Na_s26 Na_s27 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX047 Na_s27 Na_s28 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX048 Na_s28 Na_s29 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX049 Na_s29 Na_s30 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX050 Na_s30 Na_s31 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX051 Na_s31 Na_s32 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX052 Na_s32 Na_s33 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX053 Na_s33 Na_s34 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX054 Na_s34 Na_s35 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX055 Na_s35 Na_s36 T 0 1stack params: M=78.9677 N=11 I_c=18.05m R=19.2357m L=34.138n C=9.59379u
XX056 Na_s36 Na_s37 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX057 Na_s37 Na_s38 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX058 Na_s38 Na_s39 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX059 Na_s39 Na_s40 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX060 Na_s40 Na_s41 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX061 Na_s41 Na_s42 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX062 Na_s42 Na_s43 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX063 Na_s43 Na_s44 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX064 Na_s44 Na_s45 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX065 Na_s45 Na_s46 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX066 Na_s46 Na_s47 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX067 Na_s47 Na_s48 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX068 Na_s48 Na_s49 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX069 Na_s49 Na_s50 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX070 Na_s50 Na_s51 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX071 Na_s51 Na_s52 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX072 Na_s52 Na_s53 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX073 Na_s53 Na_s54 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX074 Na_s54 Na_s55 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX075 Na_s55 Na_s56 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX076 Na_s56 Na_s57 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX077 Na_s57 Na_s58 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX078 Na_s58 Na_s59 T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u
XX079 Na_s59 Na T 0 1stack params: M=86.8645 N=10 I_c=18.05m R=17.487m L=31.0345n C=10.5532u

* block symbol definitions
.subckt 1stack in out P_out P_in
B§IJJ in out I={I_c}*sin(V(Phi))
B§R_int in out I={M}*((V(in)-V(out))/({alpha}*(exp(-1*(V(P_out)-V(P_in))/{beta})+exp(-1*(V(P_out)-V(P_in))**2/{gamma}))+{delta}))
R in N001 {R}
C Nlc out {C}
B§P P_in P_out I=(V(in)-V(out))*I(R_int)
B§V_t 0 Phi I=(V(in)-V(out))/{N}
C§h/2e Phi 0 329.1p
L N001 Nlc {L}
.ic V(Phi)=0 V(Nlc)=0
.ends 1stack

.param alpha=140.26 beta=74.429 gamma=2993.7 delta=14.966
.tran 0 2 0 10u
.ic V(Nd)=0 V(Nc_s01)=0 V(Nc_s02)=0 V(Nc)=0 V(Nb_s01)=0 V(Nb_s02)=0
+ V(Nb_s03)=0 V(Nb_s04)=0 V(Nb_s05)=0 V(Nb_s06)=0 V(Nb_s07)=0 V(Nb_s08)=0
+ V(Nb_s09)=0 V(Nb_s10)=0 V(Nb_s11)=0 V(Nb_s12)=0 V(Nb_s13)=0 V(Nb_s14)=0
+ V(Nb_s15)=0 V(Nb)=0 V(Na_s01)=0 V(Na_s02)=0 V(Na_s03)=0 V(Na_s04)=0
+ V(Na_s05)=0 V(Na_s06)=0 V(Na_s07)=0 V(Na_s08)=0 V(Na_s09)=0 V(Na_s10)=0
+ V(Na_s11)=0 V(Na_s12)=0 V(Na_s13)=0 V(Na_s14)=0 V(Na_s15)=0 V(Na_s16)=0
+ V(Na_s17)=0 V(Na_s18)=0 V(Na_s19)=0 V(Na_s20)=0 V(Na_s21)=0 V(Na_s22)=0
+ V(Na_s23)=0 V(Na_s24)=0 V(Na_s25)=0 V(Na_s26)=0 V(Na_s27)=0 V(Na_s28)=0
+ V(Na_s29)=0 V(Na_s30)=0 V(Na_s31)=0 V(Na_s32)=0 V(Na_s33)=0 V(Na_s34)=0
+ V(Na_s35)=0 V(Na_s36)=0 V(Na_s37)=0 V(Na_s38)=0 V(Na_s39)=0 V(Na_s40)=0
+ V(Na_s41)=0 V(Na_s42)=0 V(Na_s43)=0 V(Na_s44)=0 V(Na_s45)=0 V(Na_s46)=0
+ V(Na_s47)=0 V(Na_s48)=0 V(Na_s49)=0 V(Na_s50)=0 V(Na_s51)=0 V(Na_s52)=0
+ V(Na_s53)=0 V(Na_s54)=0 V(Na_s55)=0 V(Na_s56)=0 V(Na_s57)=0 V(Na_s58)=0
+ V(Na_s59)=0 V(Na)=0
.backanno
.end
